US06448397B1
To a mixture of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol (0.048 g, 0.159 mmol), potassium carbonate (0.044 g, 0.318 mmol), and DMF (1.0 mL) at 100° C. is added diethylaminoethyl chloride hydrochloride (0.033 g, 0.191 mmol) in aliquots over 1 h. After 5.5 h, an additional 0.011 g of diethylaminoethyl chloride hydrochloride is added, and one hour later, a few crystals of sodium iodide are added. After heating for ten hours, the mixture is allowed to stir at room temperature for the remainder of the night. Additional potassium carbonate (0.022 g) and diethylaminoethyl chloride hydrochloride (0.017 g) are added and the mixture is stirred at 100° C. for 1.5 h. The major portion of the DMF is distilled off and the residue is partitioned between dichloromethane and water. The organic layers are dried over sodium sulfate and concentrated. The residue is chromatographed on silica gel (17 mL) using EtOAc/dichloromethane (30/70 to 60/40) to give 0.040 g of N,N-diethyl-2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-1-ethanamine.

reactant | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-ol | 0.159 mmol, 0.048 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C4=C(C=CC=C4N1C23)O | C20H15NO2
reactant | potassium carbonate | 0.318 mmol, 0.044 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylaminoethyl chloride hydrochloride | 0.191 mmol, 0.033 g | Cl.C(C)N(CC)CCCl
reactant | diethylaminoethyl chloride hydrochloride | 0.011 g | Cl.C(C)N(CC)CCCl
reactant | sodium iodide | [I-].[Na+]
reactant | potassium carbonate | 0.022 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylaminoethyl chloride hydrochloride | 0.017 g | Cl.C(C)N(CC)CCCl
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N,N-diethyl-2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]-1-ethanamine | 0.040 g | C(C)N(CCOC1=CC=CC=2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3)CC | C26H28N2O2
